US06916817B1
A mixture of 4-(4-fluorophenyl)-1-[2-(1-t-butoxycarbonylpiperidin-4-yl)-ethenylsulphonyl]-piperazine (1.96 g) and trifluoroacetic acid (5 ml) was stirred at ambient temperature for 5 hours. The mixture was evaporated to dryness, diluted with water, basified with aqueous 2M sodium hydroxide and extracted with ethyl acetate (2×20 ml). Removal of the solvent gave 4-(4-fluorophenyl)-1-[2-(piperidin-4-yl)-ethenylsulphonyl]-piperazine.

reactant | 4-(4-fluorophenyl)-1-[2-(1-t-butoxycarbonylpiperidin-4-yl)-ethenylsulphonyl]-piperazine | 1.96 g | FC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C=CC1CCN(CC1)C(=O)OC(C)(C)C | C22H32FN3O4S
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(4-fluorophenyl)-1-[2-(piperidin-4-yl)-ethenylsulphonyl]-piperazine | FC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C=CC1CCNCC1 | C17H24FN3O2S
